US07935786B2
Hydrolysis Kinetics in Leucine Aminopeptidase
The degradation H-Tyr-Gly-Gly-Phe-Leu-OH (SEQ ID NO: 12) (˜1.8×10−4 M) in 50 mM phosphate buffer solutions of pH 7.4 containing carboxypeptidase A (1 U/ml) was studied as described above. The pseudo first-order rate constant for the degradation was estimated to 9.8×10−1 min−1 and the corresponding half-life calculated to 0.7 min as previously described.

reactant | H-Tyr-Gly-Gly-Phe-Leu-OH | N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C28H37N5O7
solvent | phosphate | 50 mM | P(=O)([O-])([O-])[O-]
product | Leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
